US07834051B2
rac-2-chloro-4-[(2R,3R)-3-hydroxy-2,3,4,4-tetramethyl-5-oxopyrrolidin-1-yl]-3-methylbenzonitrile
Using 2-chloro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (40 mg) and methylmagnesium bromide-THF solution (1.38 mL, 1.0 mol/L), and in the same manner as in Example 2, the title compound was obtained as a colorless solid (yield: 24 mg, 57%).

reactant | 2-chloro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 40 mg | ClC1=C(C#N)C=CC(=C1C)N1C(C(C(C1C)=O)(C)C)=O | C15H15ClN2O2
reactant | methylmagnesium bromide THF | 1.0 mol/L, 1.38 mL | C[Mg]Br.C1CCOC1
product | rac-2-chloro-4-[(2R,3R)-3-hydroxy-2,3,4,4-tetramethyl-5-oxopyrrolidin-1-yl]-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N1[C@@H]([C@](C(C1=O)(C)C)(C)O)C | C16H19ClN2O2
